US06337344B1
[4-({[1-(3-Amidino-benzyl)-5-fluoro-1H-indole-2-carbonyl]-amino}-methyl)-phenyl]-dimethyl-2-propynyl-ammonium acetate acetic acid salt
This compound was prepared from [4-({[1-(3-cyano-benzyl)-5-fluoro-1H-indole-2-carbonyl]-amino}-methyl)-phenyl]-dimethyl-2-propynyl-ammonium bromide (220 mg, 0.406 mmol), ethanol (12 ml), hydrogen chloride, and liquid ammonia analogously to example 19/3. The crude product was purified by chromatography on silica gel with dichloromethane/methanol/acetic acid 3:2:0.05 to 1:4:0.05. Lyophilization gave 131 mg of the desired product (56%). M.p. 109° C. (dec.). MS: 482.3 (M+).

reactant | [4-({[1-(3-cyano-benzyl)-5-fluoro-1H-indole-2-carbonyl]-amino}-methyl)-phenyl]-dimethyl-2-propynyl-ammonium bromide | 0.406 mmol, 220 mg | [Br-].C(#N)C=1C=C(CN2C(=CC3=CC(=CC=C23)F)C(=O)NCC2=CC=C(C=C2)[N+](CC#C)(C)C)C=CC1
reactant | hydrogen chloride | Cl | ClH
reactant | ammonia | N | H3N
reactant | ethanol | 12 ml | C(C)O | C2H6O
product | [4-({[1-(3-Amidino-benzyl)-5-fluoro-1H-indole-2-carbonyl]-amino}-methyl)-phenyl]-dimethyl-2-propynyl-ammonium acetate acetic acid salt | 131 mg, 56% | C(C)(=O)O.C(C)(=O)[O-].C(N)(=N)C=1C=C(CN2C(=CC3=CC(=CC=C23)F)C(=O)NCC2=CC=C(C=C2)[N+](CC#C)(C)C)C=CC1 | InChI=1S/C29H28FN5O.2C2H4O2/c1-4-14-35(2,3)25-11-8-20(9-12-25)18-33-29(36)27-17-23-16-24(30)10-13-26(23)34(27)19-21-6-5-7-22(15-21)28(31)32;2*1-2(3)4/h1,5-13,15-17H,14,18-19H2,2-3H3,(H3-,31,32,33,36);2*1H3,(H,3,4)
